US06362177B1
To a solution of 3-[{N-(tert-butoxycarbonyl)glycyl}aminomethyl]-1-(4-chlorobenzyl)pyrrolidine (804 mg, 2.11 mmol) in methanol (10 mL) was added 4 N HCl in dioxane (5 mL). The solution was stirred at room temperature for 3.5 h. The reaction mixture was concentrated and 1 N NaOH solution (20 mL) was added. The mixture was extracted with dichloromethane (20 mL×3), and the combined extracts were dried over sodium sulfate and concentrated to give desired 1-(4-chlorobenzyl)-3-{(glycylamino)methyl)pyrrolidine (599 mg, 100%): The purity was determined by RPLC/MS (100%); ESI/MS m/e 282.2 (M++H, C14H20ClN3O).

reactant | 3-[{N-(tert-butoxycarbonyl)glycyl}aminomethyl]-1-(4-chlorobenzyl)pyrrolidine | 2.11 mmol, 804 mg | C(C)(C)(C)OC(=O)NCC(=O)NCC1CN(CC1)CC1=CC=C(C=C1)Cl | C19H28ClN3O3
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-chlorobenzyl)-3-{(glycylamino)methyl)pyrrolidine | 599 mg, 100% | ClC1=CC=C(CN2CC(CC2)CNC(CN)=O)C=C1 | C14H20ClN3O
